US04115568
(m) Methyl 3-(4-chloro-2-nitroanilino)-thiophene-2-carboxylate
5-Chloro-2-fluoro-nitrobenzene and methyl 3-amino-thiophene-2-carboxylate, m.p. 207°-208° C. (EtOAc/Hexane).

reactant | 5-Chloro-2-fluoro-nitrobenzene | ClC=1C=CC(=C(C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | methyl 3-amino-thiophene-2-carboxylate | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
solvent | EtOAc Hexane | CCOC(=O)C.CCCCCC
product | Methyl 3-(4-chloro-2-nitroanilino)-thiophene-2-carboxylate | ClC1=CC(=C(NC2=C(SC=C2)C(=O)OC)C=C1)[N+](=O)[O-] | C12H9ClN2O4S
